US06511974B1
(5H,11H-Pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-[4-(3-trifluoromethyl-pyrazol-1-yl)-phenyl]-methanone
To a solution of 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]-benzodiazepine (0.88 g) and diisopropylethylamine (0.66 g) in dichloromethane (50 ml) was added the 4-(3-trifluoromethylpyrazol-1-yl)benzoyl chloride (1.40 g). After stirring at room temperature for 18 hours, the reaction mixture was washed with water and saturated aqueous sodium bicarbonate. The dichloromethane solution was dried over anhydrous sodium sulfate and filtered through a short column of hydrous sodium magnesium silicate and further eluted with several volumes of dichloromethane. The combined organic phase was concentrated on a hot plate with the gradual addition of hexane until crystallization occurred. After cooling, the crystals were collected by filtration to yield the title compound (1.70 g), m.p. 166-167° C.; MS, m/z: 423.3 (M+H)+, 845.4 (2M+H)+.

reactant | 10,11-dihydro-5H-pyrrolo[2,1-c][1,4]-benzodiazepine | 0.88 g | C=1C=CN2C1CNC1=C(C2)C=CC=C1 | C12H12N2
reactant | diisopropylethylamine | 0.66 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-(3-trifluoromethylpyrazol-1-yl)benzoyl chloride | 1.40 g | FC(C1=NN(C=C1)C1=CC=C(C(=O)Cl)C=C1)(F)F | C11H6ClF3N2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (5H,11H-Pyrrolo[2,1-c][1,4]benzodiazepin-10-yl)-[4-(3-trifluoromethyl-pyrazol-1-yl)-phenyl]-methanone | 1.70 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)N1N=C(C=C1)C(F)(F)F | C23H17F3N4O
